US05225402
1-{1-[4-(4-Oxiranylbutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1.6 g) is dissolved in a mixture of dioxane (30 ml) and water (10 ml). Thereto is added conc. sulfuric acid (0.1 ml) and the mixture is stirred at room temperature overnight. The mixture is neutralized with sodium hydrogen carbonate and then extracted with chloroform. The extract is dried with magnesium sulfate and the solvent is evaporated off. The resulting residue is purified by silica gel column chromatography (solvent: dichloromethane:methanol=50:1) to give 1-{1-[4-(5,6-dihydroxyhexyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.6 g).

reactant | 1-{1-[4-(4-Oxiranylbutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1.6 g | O1C(C1)CCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C27H32N2O4
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 1-{1-[4-(5,6-dihydroxyhexyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.6 g | OC(CCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1)CO | C27H34N2O5
